US05071844
(S)-5,11-Dihydro-5-[1-(4-methoxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]thiazepine
A mixture of (S)-5,11-dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine (see Preparations 13 and 14) (2.8 g), 4-methoxyphenethyl bromide (2.6 g), sodium carbonate (1.30 g) and sodium iodide (50 mg) in acetonitrile (75 ml) was heated under reflux for 16 hours, evaporated under reduced pressure and the residue partitioned between ethyl acetate and water. The organic layer was washed with water, dried over sodium sulphate and evaporated under reduced pressure. The residue was purified by chromatography on silica gel, performing a gradient elution using initially dichloromethane as eluant and changing to dichloromethane/saturated methanolic ammonia (98:2). The appropriate fractions were combined and evaporated under reduced pressure to give the title compound as a colourless oil, (2.5 g, 62%).

reactant | (S)-5,11-dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine | 2.8 g | N1[C@@H](CCC1)CN1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C18H20N2S
reactant | 4-methoxyphenethyl bromide | 2.6 g | COC1=CC=C(CCBr)C=C1 | C9H11BrO
reactant | sodium carbonate | 1.30 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
catalyst | sodium iodide | 50 mg | [I-].[Na+]
product | (S)-5,11-Dihydro-5-[1-(4-methoxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]thiazepine | 2.5 g, 62% | COC1=CC=C(CCN2[C@@H](CCC2)CN2C3=C(SCC4=C2C=CC=C4)C=CC=C3)C=C1 | C27H30N2OS
